US08536168B2
7-Benzyl-4-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-furo[2,3-d]pyridazine
The mixture of 7-chloro-4-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-furo[2,3-d]pyridazine and 4-chloro-7-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-furo[2,3-d]pyridazine (210 mg, 0.547 mmol) are combined with benzyl zinc bromide (6.75 mL, 0.5M in THF, 3.28 mmol) and tetrakis (triphenylphosphine) palladium0 (31.5 mg, 0.027 mmol). The reaction is heated to 80° C. for 40 h. Add H2O and extract with EtOAc. Concentrate in vacuo. The residue is purified by flash chromatography on silica gel (EtOAc/Heptane) to afford a mix of title compounds. This mixture is separated by HPLC using a 30% isocratic gradient of CH3CN/H2O with a formic acid modifier (0.1%) to yield both title compounds (16.9 mg, 7%).

reactant | 7-chloro-4-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-furo[2,3-d]pyridazine | ClC=1N=NC(=C2C1OC=C2)N2CCN(CC2)C2=NC=C(C=C2)C(F)(F)F | C16H13ClF3N5O
reactant | 4-chloro-7-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-furo[2,3-d]pyridazine | 0.547 mmol, 210 mg | ClC1=C2C(=C(N=N1)N1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F)OC=C2 | C16H13ClF3N5O
reactant | benzyl zinc bromide | 3.28 mmol, 0.5M, 6.75 mL | [Br-].C(C1=CC=CC=C1)[Zn+]
catalyst | tetrakis | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Benzyl-4-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-furo[2,3-d]pyridazine | 16.9 mg, 7% | C(C1=CC=CC=C1)C=1N=NC(=C2C1OC=C2)N2CCN(CC2)C2=NC=C(C=C2)C(F)(F)F | C23H20F3N5O
